US04994482
3,4,5-Triphenyl-lH-pyrazol-1-butanol (4 g, 10.9 mmol) in dry CH 0.12. Cl2 (10 mL) was added to a stirred suspension of pyridinium chlorochromate (7.03 g, 32.6 mmol) in dry CH2Cl2 (370 mL). After 3 hours, the CH2Cl2 was removed in vacuo and the residue diluted with diethyl ether (800 mL) and filtered through diatomateous earth. The organic phase was washed twice with water and once with saturated sodium chloride solution, dried over sodium sulfate and concentrated to furnish 3,4,5-triphenyl-lH-pyrazol-1-butanal as a viscous oil. MS(CI): m/e =367 (MH+)

reactant | 3,4,5-Triphenyl-lH-pyrazol-1-butanol | 10.9 mmol, 4 g | C1(=CC=CC=C1)C1=NN(C(=C1C1=CC=CC=C1)C1=CC=CC=C1)CCCCO | C25H24N2O
reactant | Cl2 | 10 mL | ClCl | Cl2
reactant | pyridinium chlorochromate | 32.6 mmol, 7.03 g | [Cr](=O)(=O)([O-])Cl.[NH+]1=CC=CC=C1
solvent | CH2Cl2 | 370 mL | C(Cl)Cl | CH2Cl2
product | 3,4,5-triphenyl-lH-pyrazol-1-butanal | C1(=CC=CC=C1)C1=NN(C(=C1C1=CC=CC=C1)C1=CC=CC=C1)CCCC=O | C25H22N2O
